US06759414B2
D. 2-[(1-tert-Butoxycarbonylpiperidin-4-ylcarbonyl)amino]-N-(5-chloropyridin-2-yl)-5-ethylbenzamide
Using methods substantially equivalent to those described in Example 51-D, 2-(1-tert-butoxycarbonylpiperidin-4-ylcarbonyl)amino)-N-(5-chloropyridin-2-yl)-5-ethylbenzamide (1.27 g, 47%) was prepared from 2-[(1-tert-butoxycarbonylpiperidin-4-yl)-6-ethyl-4H-3,1-benzoxazin-4-one.

reactant | N-(5-chloropyridin-2-yl)-5-ethylbenzamide | 1.27 g | ClC=1C=CC(=NC1)NC(C1=CC=CC(=C1)CC)=O | C14H13ClN2O
reactant | (1-tert-butoxycarbonylpiperidin-4-yl)-6-ethyl-4H-3,1-benzoxazin-4-one | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC2=C(C(O1)=O)C=C(C=C2)CC | C20H26N2O4
product | 2-[(1-tert-Butoxycarbonylpiperidin-4-ylcarbonyl)amino]-N-(5-chloropyridin-2-yl)-5-ethylbenzamide | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=C(C=C1)CC | C25H31ClN4O4
